US05578627
To a solution of 0.378 ml of chlorosulfonyl isocyanate in 5 ml of tetrahydrofuran is dropwise added 0.78 ml of a tetrahydrofuran-water mixture (9:1 v/v) at -10° C. over five minutes, and the temperature is gradually elevated to 15° C. To this mixture are dropwise added at the same temperature 0.61 ml of triethylamine and a solution of 1.0 g of 5-chloro-3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-1,2-benzoisoxazole in 10 ml of tetrahydrofuran over ten minutes, after which they are subjected to reaction at room temperature for two hours. Water and ethyl acetate are added to the reaction mixture, they are shaken and the organic layer is separated. The separated organic layer is washed with a saturated saline solution and dried over anhydrous magnesium sulfate, after which the solvent is removed by distillation under reduced pressure. The residue obtained is purified by a silica gel column chromatography [eluant:toluene:ethyl acetate=5:1], to obtain 1.0 g of oily 5-chloro-3-(2-tert-butoxycarbonylamino-3-sulfamoyloxypropoxy)-1,2-benzoisoxazole.

reactant | chlorosulfonyl isocyanate | 0.378 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | tetrahydrofuran water | 0.78 ml | O1CCCC1.O
reactant | triethylamine | 0.61 ml | C(C)N(CC)CC | C6H15N
reactant | 5-chloro-3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-1,2-benzoisoxazole | 1.0 g | ClC=1C=CC2=C(C(=NO2)OCC(CO)NC(=O)OC(C)(C)C)C1 | C15H19ClN2O5
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 5-chloro-3-(2-tert-butoxycarbonylamino-3-sulfamoyloxypropoxy)-1,2-benzoisoxazole | 1.0 g | ClC=1C=CC2=C(C(=NO2)OCC(COS(N)(=O)=O)NC(=O)OC(C)(C)C)C1 | C15H20ClN3O7S
